US07846960B2
(2-Trifluoromethoxy-phenyl)-hydrazine Hydrochloride
To a stirred solution of hydrochloric acid (37%, 1.6 L) at 0° C. is added 2-trifluoromethoxy-phenylamine (200 g, 113 mmol) followed by water (160 mL) and additional hydrochloric acid (160 mL). The mixture is warmed to room temperature, is stirred for 20 minutes, and is cooled to −5° C. A solution of sodium nitrite (82 g, 1.19 mmol) in water (400 mL) is added dropwise keeping the internal temperature below 0° C. The mixture is cooled to −5° C. and a solution of tin (II) chloride dihydrate (1020 g, 4520 mmol) in of HCl (37%, 3.2 L) is added dropwise keeping the internal temperature below 0° C. The mixture is warmed to room temperature, is stirred for 3 h, filtered, and washed with 6 N HCl (3 L) to obtain a yellow solid that is dried under vacuum overnight The title compound (115.8 g, 54%) is obtained pink-brown solid.

reactant | hydrochloric acid | 1.6 L | Cl | ClH
reactant | 2-trifluoromethoxy-phenylamine | 113 mmol, 200 g | FC(OC1=C(C=CC=C1)N)(F)F | C7H6F3NO
reactant | hydrochloric acid | 160 mL | Cl | ClH
reactant | sodium nitrite | 1.19 mmol, 82 g | N(=O)[O-].[Na+]
reactant | tin (II) chloride dihydrate | 4520 mmol, 1020 g | O.O.[Sn](Cl)Cl
reactant | HCl | 3.2 L | Cl | ClH
solvent | water | 400 mL | O | H2O
solvent | water | 160 mL | O | H2O
product | (2-Trifluoromethoxy-phenyl)-hydrazine Hydrochloride | Cl.FC(OC1=C(C=CC=C1)NN)(F)F | InChI=1S/C7H7F3N2O.ClH/c8-7(9,10)13-6-4-2-1-3-5(6)12-11;/h1-4,12H,11H2;1H
